US08349833B2
4,5,6,7-Tetrahydrothieno[3,2-c]pyridine (0.65 g, 4.61 mmol) and 5-bromo-5-(2-chlorophenyl)-2,2-dimethylpentanoic acid ethyl ester (1.42 g, 4.08 mmol) were dissolved in THF (5 mL) and triethylamine (3 mL) with a few crystals of DMAP. The solution was heated overnight to 85° C. using an oil bath. After 20 hours, the solution was cooled to room temperature and sodium bicarbonate solution (20 mL) was added. After mixing, the product was extracted with dichloromethane (2×25 mL). The combined dichloromethane fractions were dried over sodium sulfate, filtered, and concentrated. The remaining yellow oil was purified by MPLC on a Companion Chromatography station using silica gel (40 g), eluting with a gradient of 100% heptane to 10% ethyl acetate over 20 minutes followed by a second gradient to 100% ethyl acetate at 40 minutes. The second broad fraction was collected and concentrated to produce 5-(2-chlorophenyl)-5-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-2,2-dimethylpentanoic acid ethyl ester (Compound Ib, 1.11 g, 67.2% yield) as a light, yellow oil. 1H NMR (300 MHz, CDCl3/TMS): δ=7.46 (dd, 1H, J=7.80, 1.5 Hz), 7.38 (dd, 1H, J=7.80, 1.5 Hz), 7.30-7.15 (m, 2H), 7.04 (d, 1H, J=5.1 Hz), 6.70 (d, 1H, J=5.1 Hz), 4.18 (dd, 1H, J=8.7, 4.5 Hz), 4.08 (q, 2H, J=7.2 Hz), 3.79 (d, 1H, J=14.4 Hz), 3.45 (d, 1H, J=14.4 Hz), 2.90-2.62 (m, 4H), 2.0-1.85 (m, 1H), 1.82-1.68 (m, 1H), 1.49 (dt, 1H, J=13.5, 4.2 Hz), 1.30 (dt, 1H, J=13.5, 4.5 Hz), 1.20 (t, 3H, J=7.2 Hz), 1.10 (s, 6H). 13C NMR (75 MHz, CDCl3/TMS): δ=177.59, 138.99, 134.95, 134.25, 133.59, 129.64, 129.11, 128.07, 126.73, 125.43, 122.61, 63.81, 60.38, 50.63, 47.95, 42.22, 36.43, 28.22, 26.17, 25.52, 25.38, 14.47. MS (MMI-TOF): Calculated for C22H28NO2ClS (MH+): 406.1602; found 406.1576.

reactant | 4,5,6,7-Tetrahydrothieno[3,2-c]pyridine | 4.61 mmol, 0.65 g | S1C=CC=2CNCCC21 | C7H9NS
reactant | 5-bromo-5-(2-chlorophenyl)-2,2-dimethylpentanoic acid ethyl ester | 4.08 mmol, 1.42 g | C(C)OC(C(CCC(C1=C(C=CC=C1)Cl)Br)(C)C)=O | C15H20BrClO2
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(2-chlorophenyl)-5-(6,7-dihydro-4H-thieno[3,2-c]pyridin-5-yl)-2,2-dimethylpentanoic acid ethyl ester | 1.11 g, 67.2% yield | C(C)OC(C(CCC(N1CC2=C(CC1)SC=C2)C2=C(C=CC=C2)Cl)(C)C)=O | C22H28ClNO2S
